US07241458B1
4-[[4-[(2,4,6-trimethylphenyl)amino]-2-pyrimidinyl]amino]benzonitrile (0.0015 mol) was stirred in boiling ethanol (8 ml). 6 M HCl in 2-propanol (0.0015 mol) was added and the salt was allowed to crystallize out overnight at room temperature. The precipitate was filtered off, washed with 2-propanol and dried, yielding 0.47 g (86%) of 4-[[4-[(2,4,6-trimethyl-phenyl)amino]-2-pyrimidinyl]amino]benzonitrile hydrochloride (1:1) (comp. 31).

reactant | 4-[[4-[(2,4,6-trimethylphenyl)amino]-2-pyrimidinyl]amino]benzonitrile | 0.0015 mol | CC1=C(C(=CC(=C1)C)C)NC1=NC(=NC=C1)NC1=CC=C(C#N)C=C1 | C20H19N5
reactant | HCl | 6 M | Cl | ClH
reactant | 2-propanol | 0.0015 mol | CC(C)O | C3H8O
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 4-[[4-[(2,4,6-trimethyl-phenyl)amino]-2-pyrimidinyl]amino]benzonitrile hydrochloride | 0.47 g, 86% | Cl.CC1=C(C(=CC(=C1)C)C)NC1=NC(=NC=C1)NC1=CC=C(C#N)C=C1 | InChI=1S/C20H19N5.ClH/c1-13-10-14(2)19(15(3)11-13)24-18-8-9-22-20(25-18)23-17-6-4-16(12-21)5-7-17;/h4-11H,1-3H3,(H2,22,23,24,25);1H
